US04735940
(aa) 15.7 g of methyl 5,6-dihydro-8-oxo-9-phenyl-8H-pyrido[1,2-d]thieno[2,3-f][1,4]thiazepine-11-carboxylate 4-oxide were added portionwise to 70 ml of thionyl chloride with the exclusion of moisture in such a manner that the temperature of the reaction solution is at about 35°. After completion of the addition, the mixture was stirred until the reaction was completed. The excess thionyl chloride was removed in vacuo and the residue was treated with 100 ml of water. The crystals were removed by filtration and dried, whereupon they were chromatographed on silica gel. By recrystallization from toluene, there was obtained methyl 5-chloro-5,6-dihydro-9-phenyl-8H-pyrido[1,2-d]thieno-[2,3-f][1,4]thiazepin-11-carboxylate as yellow crystals of m.p. 192°-196°.

reactant | methyl 5,6-dihydro-8-oxo-9-phenyl-8H-pyrido[1,2-d]thieno[2,3-f][1,4]thiazepine-11-carboxylate 4-oxide | 15.7 g | O=C1C(=CC(=C2N1CCS(C1=C2SC=C1)=O)C(=O)OC)C1=CC=CC=C1 | C19H15NO4S2
reactant | thionyl chloride | 70 ml | S(=O)(Cl)Cl | Cl2OS
product | methyl 5-chloro-5,6-dihydro-9-phenyl-8H-pyrido[1,2-d]thieno-[2,3-f][1,4]thiazepin-11-carboxylate | ClC1SC2=C(C=3N(C1)CC(=CC3C(=O)OC)C3=CC=CC=C3)SC=C2 | C19H16ClNO2S2
